US07968570B2
4-[2-(4-Methylbenzyl)-1-oxo-2,3-dihydro-1H-isoindol-5-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
5-Bromo-2-(4-methyl-benzyl)-2,3-dihydro-isoindol-1-one (25 mg, 0.080 mmol), 4-boranate ester-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (24 mg, 0.079 mmol), potassium carbonate (32 mg, 0.24 mmol), PdCl2(dppf) (3.8 mg, 0.005 mmol), was stirred in DMF (3 mL) at 110° C. for 18 hours, under argon. The cooled reaction was concentrated and the residue was partitioned between ethyl acetate and water. The organic phase was washed with water and brine, dried over magnesium sulfate, filtered and concentrated. Column chromatography (40% EtOAc/Hexanes) provided the title compound as a yellow solid (8.1 mg, 25%). 1H NMR (300 MHz, CDCl3): δ 7.85 (d, 1H), 7.49 (d, 1H), 7.36 (s, 1H), 7.20 (q, 4H), 6.11 (br s, 1H), 4.78 (s, 2H), 4.26 (s, 2H), 4.10 (dd, 2H, 3.66 (t, 2H, 2.53 (br s, 2H), 2.35 (s, 3H), 1.51 (s, 9H).

reactant | 5-Bromo-2-(4-methyl-benzyl)-2,3-dihydro-isoindol-1-one | 0.080 mmol, 25 mg | BrC=1C=C2CN(C(C2=CC1)=O)CC1=CC=C(C=C1)C | C16H14BrNO
reactant | potassium carbonate | 0.24 mmol, 32 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.005 mmol, 3.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[2-(4-Methylbenzyl)-1-oxo-2,3-dihydro-1H-isoindol-5-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 8.1 mg, 25% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1C=C2CN(C(C2=CC1)=O)CC1=CC=C(C=C1)C | C26H30N2O3
